US08871753B2
Step A. 7-(Chloroacetyl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrazine
Bromoacetic acid (300 mg, 2.2 mmol) and 3-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrazine hydrochloride (490 mg, 2.2 mmol) were stirred in dichloromethane (5 mL) with N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (412 mg, 2.2 mmol) and N,N-diisopropylethylamine (560 mL, 3.2 μmol) for 3 hours at rt. The mixture was washed with water, dried over sodium sulfate and evaporated to give the desired compound in 33% yield. LCMS for C8H8ClF3N4O (M+H)+: m/z=269.0.

reactant | Bromoacetic acid | 2.2 mmol, 300 mg | BrCC(=O)O | C2H3BrO2
reactant | 3-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrazine hydrochloride | 2.2 mmol, 490 mg | Cl.FC(C1=NN=C2N1CCNC2)(F)F
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.2 mmol, 412 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 3.2 μmol, 560 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 7-(Chloroacetyl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrazine | 33% yield | ClCC(=O)N1CC=2N(CC1)C(=NN2)C(F)(F)F | C8H8ClF3N4O
